US09340538B2
Step B: Methyl 2-(2-carbamimidoylthiazol-4-yl)acetate hydrochloride
A mixture of ethyl 2-(2-cyanothiazol-4-yl)acetate (2.17 g, 11 mmol), sodium methylate (0.84 g, 15.5 mmol) and ammonium chloride (0.88 g, 16.5 mmol) in anhydrous methanol (50 mL) was stirred at 25° C. for 24 hours under N2. The reaction mixture was filtered and the filtrate was concentrated in vacuo. Then to the residue was added acetone (12 mL). The mixture was stirred for 3 hours and filtered. The filter cake was washed with a little of acetone to give the title compound as a yellowish solid (1.63 g, 63%). The compound was characterized by the following spectroscopic data:

reactant | ethyl 2-(2-cyanothiazol-4-yl)acetate | 11 mmol, 2.17 g | C(#N)C=1SC=C(N1)CC(=O)OCC | C8H8N2O2S
reactant | sodium methylate | 15.5 mmol, 0.84 g | C[O-].[Na+]
reactant | ammonium chloride | 16.5 mmol, 0.88 g | [Cl-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 2-(2-carbamimidoylthiazol-4-yl)acetate hydrochloride | 1.63 g, 63% | Cl.C(N)(=N)C=1SC=C(N1)CC(=O)OC | InChI=1S/C7H9N3O2S.ClH/c1-12-5(11)2-4-3-13-7(10-4)6(8)9;/h3H,2H2,1H3,(H3,8,9);1H
